US07307084B2
19. 2,3Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Propyl-amide
To a solution of 0.3 g (0.93 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid and 0.3 g (0.93 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) in dimethylformamide (5 ml) were added 240 μl (1.9 mmol) triethylamine and 76 μl (0.93 mmol) propylamine and the suspension was stirred overnight at room temperature. The reaction was poured into water, the precipitate filtered off and purified by column chromatography on silica gel (dichloromethane/methanol=50:1) to afford 154 mg (46%) of the toe compound as a white powder.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 0.93 mmol, 0.3 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.93 mmol, 0.3 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 1.9 mmol, 240 μl | C(C)N(CC)CC | C6H15N
reactant | propylamine | 0.93 mmol, 76 μl | C(CC)N | C3H9N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Propyl-amide | 154 mg, 46% | C(CC)NC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C22H25N3O2
